US05604229
Dodecylthiol (5 g) was dissolved in 50 ml of dry N,N-dimethylformamide and 1 g of 60% sodium hydride was added thereto under ice-cooling. The mixture was stirred at room temperature for 1 hour. Further, a solution of 3.45 g of 3-bromopropanol in 10 ml of dry N,N-dimethylformamide was dropwise added thereto under ice-cooling and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into ice, extracted with ether and washed with 1N hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution. The ether layer was dehydrated and concentrated. The resultant mixture was purified by silica gel column chromatography using hexane-ethyl acetate (10:1→3:1) as an eluent to give 6.071 g of 3-dodecylthiopropanol as a colorless powder.

reactant | Dodecylthiol | 5 g | CCCCCCCCCCCCS | C12H26S
reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | 3-bromopropanol | 3.45 g | BrCCCO | C3H7BrO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-dodecylthiopropanol | 6.071 g | C(CCCCCCCCCCC)SCCCO | C15H32OS
